US06156700
Preparation of {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}phosphonic acid
A solution of diethyl{{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}phosphonate (1.00 g, 0.00210 mol) and bromotrimethylsilane (2.20 mL, 0.0168 mol) in methylene chloride (5.0 mL) is stirred at room temperature overnight and concentrated in vacuo to obtain a residue. The residue is diluted with methanol (10.0 mL), stirred at room temperature for 3.5 hours and concentrated in vacuo to obtain a tan solid. The solid is triturated in boiling methylene chloride, filtered and dried to give the title product as a beige solid (0.650 g, mp >230° C.).

reactant | diethyl{{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}phosphonate | 0.00210 mol, 1.00 g | C(C)OP(OCC)(=O)CC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H19F3N3O5PS
reactant | bromotrimethylsilane | 0.0168 mol, 2.20 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 10.0 mL | CO | CH4O
product | {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}phosphonic acid | 0.650 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CP(O)(O)=O)C1)=O | C14H11F3N3O5PS
